* C:\Users\mokoo\OneDrive\Documents\LTspice\BMS\BMS Testing.asc
* Generated by LTspice 24.1.10 for Windows.
R1 IN- IN+ 5m
X§U1 IN+ IN- 5V VOUT 0 5V 0 INA296A3 ;§pnba IN+)IN-)VS)OUT)GND)REF1)REF2
V2 5V 0 5
V1 IN+ 0 20V
R§Load 0 IN- 2
X§U2 N003 N001 5V 0 N002 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg ;§pnba In+)In-)V+)V-)OUT
R2 N003 VOUT 75k
R3 N002 N003 3.6Meg
R4 5V N002 10k
R5 5V N001 100k
R6 N001 0 300k
.dc V1 0 11 1
* Current sense using shunt resistor and INA296A3 for bidirectional current sensing.\nOutput voltage is 5V when 10A is detected heading into the load.\nOutput is 0V when current is 10A heading towards the battery pack.
.lib C:\Users\mokoo\OneDrive\Documents\LTspice\BMS\INA296A3.lib
.lib UniversalOpAmp2.lib
.backanno
.end
